US04150032
9b-Allyl-3-cyclopropylmethyl-8-methoxy-5,9b-dihydrobenz[e]indoline
Preparation From 1-allyl-1-[2-(N-cyclopropylmethylamino)ethyl]-2,2-ethylenedioxy-7-methoxy-1,2,3,4-tetrahydronaphthalene (XIXa). To a solution of 30.4 g (85 mmole) XIXa in ethanol (125 ml) was added a solution of 4% hydrochloric acid (125 ml). The reaction mixture was stirred at room temperature overnight (16 hrs) and then concentrated under vacuum to about half volume, alkalified with 10% sodium hydroxide and extracted with ether (2×100 ml). Combined extracts were washed with water (2×80 ml) and dried (MgSO4). Removal of the solvent under vacuum gave 23.0 g (92%) IIe identical with the material prepared in Example 39(a) above.

reactant | 1-allyl-1-[2-(N-cyclopropylmethylamino)ethyl]-2,2-ethylenedioxy-7-methoxy-1,2,3,4-tetrahydronaphthalene | C(C=C)C1(C2(CCC3=CC=C(C=C13)OC)OCCO2)CCNCC2CC2 | C22H31NO3
reactant | hydrochloric acid | 125 ml | Cl | ClH
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | 9b-Allyl-3-cyclopropylmethyl-8-methoxy-5,9b-dihydrobenz[e]indoline | C(C=C)C12CCN(C2=CCC2=C1C=C(C=C2)OC)CC2CC2 | C20H25NO
